US08227500B2
4-(4-Bromo-3-cyanopyrazole-1-yl)benzoic acid ethyl ester
A suspension of 4-bromo-1H-pyrazole-3-carbonitrile (0.52 g), 4-fluoro-benzoic acid ethyl ester (0.56 g) and cesium carbonate (1.5 g) in N,N-dimethylformamide (10 mL) was stirred at 100° C. for 2 hours. After cooling to ambient temperature, this reaction mixture was poured into water, and this mixture was extracted with ethyl acetate. This organic layer was washed with brine, dried over anhydrous magnesium sulfate. The organic layer was through an aminopropyl silica gel, and this filtrate was concentrated under reduced pressure. This obtained residue was washed with a mixed solvent of n-hexane/diethyl ether=5/1 to give the title compound (0.25 g).

reactant | 4-bromo-1H-pyrazole-3-carbonitrile | 0.52 g | BrC=1C(=NNC1)C#N | C4H2BrN3
reactant | 4-fluoro-benzoic acid ethyl ester | 0.56 g | C(C)OC(C1=CC=C(C=C1)F)=O | C9H9FO2
reactant | cesium carbonate | 1.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(4-Bromo-3-cyanopyrazole-1-yl)benzoic acid ethyl ester | 0.25 g | C(C)OC(C1=CC=C(C=C1)N1N=C(C(=C1)Br)C#N)=O | C13H10BrN3O2
